US05321027
3 g of 1-(4-amino-2-chlorobenzoyl)-4-[2-(4-chlorophenyl)ethyl]-piperazine are stirred for 1 hour at room temperature in 30 ml of chloroform with 10 ml of acetic anhydride. The solution is concentrated by evaporation and water, 2N sodium hydroxide solution and 20 ml of ethyl acetate are added to the residue and the whole is stirred for 15 minutes. Filtering with suction and recrystallisation from ethanol/petroleum ether yield 1-[4-(N-acetylamino)-2-chlorobenzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine having a melting point of 158°-160°.

reactant | 1-(4-amino-2-chlorobenzoyl)-4-[2-(4-chlorophenyl)ethyl]-piperazine | 3 g | NC1=CC(=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1)Cl | C19H21Cl2N3O
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[4-(N-acetylamino)-2-chlorobenzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine | C(C)(=O)NC1=CC(=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1)Cl | C21H23Cl2N3O2
